US09034904B2
Dexlansoprazole (2 g) in amorphous form was dissolved in MTBE (50 mL) followed by the addition of isopropyl amine (3 mL). After stirring at room temperature for 30 minutes, the resulting suspension was filtered, washed with MTBE (10 mL) and dried in vacuo at 20-25° C. to provide dexlansoprazole isopropylammonium salt (2.1 g). Molar ratio of dexlansoprazole to isopropyl amine is 1:1 by 1H NMR.

reactant | Dexlansoprazole | 2 g | CC=1C(=CC=NC1C[S+](C=2NC=3C=CC=CC3N2)[O-])OCC(F)(F)F | C16H14F3N3O2S
reactant | isopropyl amine | 3 mL | C(C)(C)N | C3H9N
solvent | MTBE | 50 mL | CC(C)(C)OC | C5H12O
product | dexlansoprazole isopropylammonium | 2.1 g | CC=1C(=CC=NC1C[S+](C=2NC=3C=CC=CC3N2)[O-])OCC(F)(F)F.C(C)(C)[NH3+] | InChI=1S/C16H14F3N3O2S.C3H9N/c1-10-13(20-7-6-14(10)24-9-16(17,18)19)8-25(23)15-21-11-4-2-3-5-12(11)22-15;1-3(2)4/h2-7H,8-9H2,1H3,(H,21,22);3H,4H2,1-2H3/p+1
